US04004912
Preparation of Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[α-(4-cyanophenyl)acetyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), triethylamine (0.06 mole) and benzene (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. α-(4-Cyanophenyl)acetyl chloride (0.05 mole) is then added dropwise with stirring. After the addition is completed, the reaction mixture is heated at reflux with continued stirring for a period of about 30 minutes. After this time the reaction mixture is filtered and the filtrate is stripped of solvent under reduced pressure to yield the desired product tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[α-(4-cyanophenyl)acetyloxy]-2(1H)-pyrimidinone as the residue.

reactant | Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C1(CC1)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C10H14N4O2S
reactant | triethylamine | 0.06 mole | C(C)N(CC)CC | C6H15N
reactant | α-(4-Cyanophenyl)acetyl chloride | 0.05 mole | C(#N)C1=CC=C(C=C1)CC(=O)Cl | C9H6ClNO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[α-(4-cyanophenyl)acetyloxy]-2(1H)-pyrimidinone | C1(CC1)C1=NN=C(S1)N1C(N(CCC1OC(CC1=CC=C(C=C1)C#N)=O)C)=O | C19H19N5O3S
